US09216173B2
To a solution of methyl N-(tert-butoxycarbonyl)-O-ethylserinate (2.7 g, 10.9 mmol) in THF (40 mL) was added lithium aluminum hydride (0.84 g, 22 mmol) at 0° C. The reaction mixture was allowed to warm to ambient temperature. After 1 hour, the reaction mixture was diluted with water, filtered, and concentrated under reduced pressure to give tert-butyl (1-ethoxy-3-hydroxypropan-2-yl)carbamate which was used without further purification. MS ESI calc'd. for C10H22NO4 [M+H]+ 220. found 220. 1H NMR (400 MHz, CDCl3) δ 5.21 (s, 1H), 3.78-3.59 (m, 3H), 3.58-3.56 (m, 2H), 3.52-3.45 (m, 2H), 1.44 (s, 9H), 1.18 (t, J=6.8 Hz, 3H).

reactant | methyl N-(tert-butoxycarbonyl)-O-ethylserinate | 10.9 mmol, 2.7 g | C(C)(C)(C)OC(=O)N[C@@H](COCC)C(=O)OC | C11H21NO5
reactant | lithium aluminum hydride | 22 mmol, 0.84 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl (1-ethoxy-3-hydroxypropan-2-yl)carbamate | C(C)OCC(CO)NC(OC(C)(C)C)=O | C10H21NO4
